US06821967B2
d. 2-(piperazin-1-yl)-benzothiazole
A solution of 1.7 g (0.01 mol) of 2-chlorobenzothiazole, 4.76 g (0.05 mol) of piperazine and 7 ml (0.05 mol) of triethylamine in 50 ml of ethanol is stirred for 48 hours at ambient temperature. The reaction mixture is concentrated by evaporation, mixed with water and extracted twice with dichloromethane. The combined organic phases are dried over sodium sulphate, the drying agent is filtered off and the filtrate is concentrated by evaporation. The residue is washed with diethylether.

reactant | 2-chlorobenzothiazole | 0.01 mol, 1.7 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | piperazine | 0.05 mol, 4.76 g | N1CCNCC1 | C4H10N2
reactant | triethylamine | 0.05 mol, 7 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(piperazin-1-yl)-benzothiazole | N1(CCNCC1)C=1SC2=C(N1)C=CC=C2 | C11H13N3S
